US08383642B2
Methyl 3-[2-fluoro-4-[[4-(spiro[indoline-3,4′-piperidine]-1′-ylmethyl)phenyl]methoxy]phenyl]propanoate hydrochloride
To a solution of tert-butyl spiro[indole-3,4′-piperidine]-1(2H)-carboxylate-3-{2-fluoro-4-[(4-methylbenzyl)oxy]phenyl}propanoic acid (0.12 g, 0.208 mmol) in methanol (5 mL), is added HCl in methanol (4 M, 5 mL) at 0° C. The reaction mixture is allowed to warm to room temperature and stirred for 1 hour. The reaction mixture is evaporated to dryness to give the title compound as a pale yellow solid (0.07 g, 64%). ESI/MS m/z 489.6 (M+H)+.

reactant | tert-butyl spiro[indole-3,4′-piperidine]-1(2H)-carboxylate 3-{2-fluoro-4-[(4-methylbenzyl)oxy]phenyl}propanoic acid | 0.208 mmol, 0.12 g | N1CCC2(CC1)CN(C1=CC=CC=C12)C(=O)OC(C)(C)C.FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)C)CCC(=O)O
reactant | HCl | Cl | ClH
reactant | methanol | 5 mL | CO | CH4O
reactant | methanol | 4 M, 5 mL | CO | CH4O
product | Methyl 3-[2-fluoro-4-[[4-(spiro[indoline-3,4′-piperidine]-1′-ylmethyl)phenyl]methoxy]phenyl]propanoate hydrochloride | 0.07 g, 64% | Cl.FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)CN1CCC2(CC1)CNC1=CC=CC=C12)CCC(=O)OC | InChI=1S/C30H33FN2O3.ClH/c1-35-29(34)13-11-24-10-12-25(18-27(24)31)36-20-23-8-6-22(7-9-23)19-33-16-14-30(15-17-33)21-32-28-5-3-2-4-26(28)30;/h2-10,12,18,32H,11,13-17,19-21H2,1H3;1H
